US07713996B2
3 M Potassium hydroxide solution (2 ml) was added to a solution of crude 2-chloro-4-{[1-(3-fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carbonyl]-amino}-benzoic acid methyl ester (0.097 g, 0.13 mmol) in MeOH (2 ml) and tetrahydrofuran (1 ml) and the mixture stirred for 16 hours. The organic solvent was evaporated and the solution neutralized with 3 M HCl solution (3 ml) forming a white precipitate. The precipitate was filtered and washed with heptane. The solid was then dried under vacuum to give 2-chloro-4-{[1-(3-fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carbonyl]-amino}-benzoic acid, 0.037 g, as a red solid. LC @215 nm; Rt 2.06: 98%, m/z (ES+): 489.23 (M+H+.); δH (400 MHz; d6-DMSO) 13.18 (1H, br.s), 10.63 (1H, s), 8.22 (1H, d), 8.08 (1H, d), 7.83-7.91 (2H, m), 7.76 (1H, dd), 7.55-7.67 (2H, m), 7.43-7.48 (2H, m), 7.30 (1H, d), 3.84 (2H, m), 2.52 (2H, m), 1.62 (2H, m).

reactant | Potassium hydroxide | 3 M, 2 ml | [OH-].[K+]
reactant | 2-chloro-4-{[1-(3-fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carbonyl]-amino}-benzoic acid methyl ester | 0.13 mmol, 0.097 g | COC(C1=C(C=C(C=C1)NC(=O)C1=CC=C2CCCN(C2=C1)S(=O)(=O)C1=CC(=CC=C1)F)Cl)=O | C24H20ClFN2O5S
solvent | MeOH | 2 ml | CO | CH4O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 2-chloro-4-{[1-(3-fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carbonyl]-amino}-benzoic acid | ClC1=C(C(=O)O)C=CC(=C1)NC(=O)C1=CC=C2CCCN(C2=C1)S(=O)(=O)C1=CC(=CC=C1)F | C23H18ClFN2O5S
